US09326973B2
To a solution of 4-fluoro-3,3-dimethyl-2-oxobutanoic acid (2.3 g, 15.53 mmol) in DMF (30 mL) was added iodoethane (1.880 mL, 23.29 mmol) and K2CO3 (5.36 g, 38.8 mmol). The reaction mixture was stirred at rt for 18 h. The reaction mixture was diluted with EtOAc and stirred for 10 min. The solid was filtered. The filtration was partitioned between EtOAc and water. The organic phase was washed water, sat. NaCl, and concentrated. The residue was diluted with hexane (˜100 mL) and washed with water (2×30 mL), dried over MgSO4, filtered and concentrated to yield ethyl 4-fluoro-3,3-dimethyl-2-oxobutanoate (2.3 g).

reactant | 4-fluoro-3,3-dimethyl-2-oxobutanoic acid | 15.53 mmol, 2.3 g | FCC(C(C(=O)O)=O)(C)C | C6H9FO3
reactant | iodoethane | 23.29 mmol, 1.880 mL | ICC | C2H5I
reactant | K2CO3 | 38.8 mmol, 5.36 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 4-fluoro-3,3-dimethyl-2-oxobutanoate | 2.3 g | FCC(C(C(=O)OCC)=O)(C)C | C8H13FO3
